US06887871B2
a) [3-(3-Furanyl)-3-oxopropyl]-carbamic acid 1,1-dimethylethyl ester
3-Bromofuran (5.88 g, 40 mmol) was dissolved in anhydrous tetrahydrofuran (60 ml) and the solution cooled to −78° C. n-Butyllithium (2.29M, 17.5 ml, 40 mmol) was added dropwise and the solution stirred for 1 h at −78° C. [3-(Methoxymethylamino)-3-oxopropyl]carbamic acid, 1,1-dimethylethyl ester as a solution in tetrahydrofuran (40 ml) was added dropwise over 1 h. The solution was stirred overnight whilst allowing to warm to room temperature. Aqueous saturated ammonium chloride solution (30 ml) was added and the mixture extracted with ethyl acetate (3×70 ml). The combined organic extracts were washed with water (3×30 ml), dried (sodium sulphate) and evaporated in vacuo. The residue was chromatographed on flash silica, eluting with hexane:ethyl acetate (7:3), to afford the title compound as a pale yellow solid (3.03 g, 63%).

reactant | 3-Bromofuran | 40 mmol, 5.88 g | BrC1=COC=C1 | C4H3BrO
reactant | n-Butyllithium | 40 mmol, 2.29M, 17.5 ml | C(CCC)[Li]
reactant | [3-(Methoxymethylamino)-3-oxopropyl]carbamic acid, 1,1-dimethylethyl ester | COCNC(CCNC(OC(C)(C)C)=O)=O | C10H20N2O4
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | [3-(3-Furanyl)-3-oxopropyl]-carbamic acid 1,1-dimethylethyl ester | 3.03 g, 63% | CC(C)(C)OC(NCCC(=O)C1=COC=C1)=O | C12H17NO4
